US07429565B2
2-{[4-(6-Ethyl-4-hydroxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phenoxy-phosphinoylamino}-propionic acid ethyl ester
2-({4-[6-Ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phenoxy-phosphinoylamino)-propionic acid ethyl ester (7.5 mg, 0.012 mmol) was dissolved in TFA/DCM (10%, 0.3 mL) at −20° C. The reaction mixture was warmed to 0° C. and stirred at this temperature for 45 minutes. Pyridine (0.09 mL) was added the solvents were removed in vacuo. The crude material was purified by RP-HPLC (eluent: water/MeCN). The product-containing fractions were combined and lyophilized, yielding a white powder (5.5 mg, 87%). 1H NMR (300 MHz, CDCl3): δ=1.12-1.29 (m, 6H), 2.03 (s, 3H), 2.17 (s, 3H), 2.65-2.74 (m, 4H), 3.38 (m, 1H), 3.53 (t, J=6.3 Hz, 2H), 4.03 (m, 3H), 5.22 (s, 2H), 5.36 (m, 1H), 7.11-7.16 (m, 3H), 7.24-7.30 (m, 2H), 7.72 (m, 1H) ppm; 3P NMR (121 MHz, CDCl3): δ=27.11, 27.57 ppm; MS=515 [M++1].

reactant | 2-({4-[6-Ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-phenoxy-phosphinoylamino)-propionic acid ethyl ester | 0.012 mmol, 7.5 mg | C(C)OC(C(C)N(P(=O)CC(=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)OCC[Si](C)(C)C)C)OC1=CC=CC=C1)=O | C32H46NO7PSi
reactant | Pyridine | 0.09 mL | N1=CC=CC=C1 | C5H5N
solvent | TFA DCM | 0.3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-{[4-(6-Ethyl-4-hydroxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-phenoxy-phosphinoylamino}-propionic acid ethyl ester | 5.5 mg, 87% | C(C)OC(C(C)N(P(=O)CC(=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)O)C)OC1=CC=CC=C1)=O | C27H34NO7P
